US08183275B2
Dinitrogen tetroxide (2.2 equiv.) was added to a suspension of 5-amino-2-pyridin-2-ylbenzonitrile (0.85 mmol) in acetonitrile (8.5 mL) at −30° C. After 5 min, sodium iodide (1.28 mmol, 1.5 equiv.), and the mixture was stirred for 10 minutes. Water (10 mL) was added and the reaction was allowed to warm to room temperature over 30 min. The product was extracted with methylene chloride and the extracts were washed with saturated sodium thiosulfate solution and brine, dried over sodium sulfate and concentrated. The resulting residue was passed through a silica gel plug, rinsing with 2% methanol in methylene chloride to provide 5-iodo-2-pyridin-2-ylbenzonitrile, which was used without further purification.

reactant | Dinitrogen tetroxide | 2.2 equiv. | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | 5-amino-2-pyridin-2-ylbenzonitrile | 0.85 mmol | NC=1C=CC(=C(C#N)C1)C1=NC=CC=C1 | C12H9N3
reactant | sodium iodide | 1.28 mmol, 1.5 equiv. | [I-].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | acetonitrile | 8.5 mL | C(C)#N | C2H3N
product | 5-iodo-2-pyridin-2-ylbenzonitrile | IC=1C=CC(=C(C#N)C1)C1=NC=CC=C1 | C12H7IN2
